US06426345B1
To a stirred solution of 4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3-oxo-2-(2-carboxyethyl)-3,4-dihydropyrido[2,3-b]pyrazine (2.30 g) and N-hydroxysuccinimide (1.15 g) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (1.20 g) and the resulting mixture was stirred for 24 hours. The reaction mixture was concentrated, diluted with ethyl acetate, washed with a saturated sodium bicarbonate solution, water and brine, and dried over magnesium sulfate. After evaporation of the solvent, the residue was triturated with ether to give 4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3-oxo-2-[2-succinimidooxycarbonylethyl)-3,4-dihydropyrido[2,3-b]pyrazine (2.35 g) as a solid.

reactant | 4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3-oxo-2-(2-carboxyethyl)-3,4-dihydropyrido[2,3-b]pyrazine | 2.30 g | COC1=C(C=CC=C1)NC(NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CCC(=O)O)C=CC=N2)=O | C24H21N5O5
reactant | N-hydroxysuccinimide | 1.15 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.20 g | C(C)N=C=NCCCN(C)C | C8H17N3
product | 4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3-oxo-2-[2-succinimidooxycarbonylethyl)-3,4-dihydropyrido[2,3-b]pyrazine | 2.35 g | COC1=C(C=CC=C1)NC(NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CCC(=O)ON1C(CCC1=O)=O)C=CC=N2)=O | C28H24N6O7
